US04529736
3-(1,2,3,4,7,7a-Hexahydro-2-methyl-4,7-methano-3aH-isoindol-3a-yl)phenol
A 733 mg portion of sodium hydride was suspended in 25 ml of dry dimethylformamide and 1.2 ml of ethane thiol in 10 ml of dry dimethylformamide was added dropwise at ice bath temperature. A 1.92 g portion of 2,3,3a,4,7,-7a-hexahydro-3a-(3-methoxyphenyl)-2-methyl-4,7-methano-1H-isoindole was added and the solution was heated at reflux for 6 hours, then cooled and evaporated in vacuo. The residue was taken up in water, extracted with ether, then hexane and neutralized with acetic acid giving a solid which was dissolved in hot methanol and precipitated with ether, then filtered. The filtrate was partially evaporated, then precipitated with ether and hexane. Evaporation of the ether extract gave a foam which was triturated with hexane, giving 240 mg of the desired product as a brown solid, mp 129°-136° C.

reactant | sodium hydride | [H-].[Na+]
reactant | ethane thiol | 1.2 ml | C(C)S | C2H6S
reactant | 2,3,3a,4,7,-7a-hexahydro-3a-(3-methoxyphenyl)-2-methyl-4,7-methano-1H-isoindole | COC=1C=C(C=CC1)C12CN(CC2C2C=CC1C2)C | C17H21NO
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 3-(1,2,3,4,7,7a-Hexahydro-2-methyl-4,7-methano-3aH-isoindol-3a-yl)phenol | 240 mg | CN1CC2C3C=CC(C2(C1)C=1C=C(C=CC1)O)C3 | C16H19NO
